US06548448B2
A solution of 0.745 g (0.00150 mol) of 1,1,2-tribromo-2-(2-benzenesulfonyloxyethyl)-cyclopropane in 4 ml of diethyl ether was placed under a nitrogen atmosphere by use of a Firestone valve. While cooling to −78° C. in a dry ice/acetone bath, 23.45 ml (0.00450 mol) of 1.4 M methyl lithium in diethyl ether was added slowly via syringe. After 15 minutes warmed to 0° C. in an ice water bath then returned to −78° C. for about 30 minutes before 2 ml of water was added via syringe. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo with a bath temperature under 20° C. to yield >0.155 g of 70% pure 2-(2-benzenesulfonyloxyethyl)-cyclopropene contaminated with 30% 1-(2-hydroxethyl)cyclopropene as an oil.

reactant | 1,1,2-tribromo-2-(2-benzenesulfonyloxyethyl)-cyclopropane | 0.00150 mol, 0.745 g | BrC1(C(C1)(CCOS(=O)(=O)C1=CC=CC=C1)Br)Br | C11H11Br3O3S
reactant | methyl lithium | 0.00450 mol, 1.4 M, 23.45 ml | C[Li]
reactant | water | 2 ml | O | H2O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
product | 2-(2-benzenesulfonyloxyethyl)-cyclopropene | >0.155 g, 70% | C1(=CC=CC=C1)S(=O)(=O)OCCC1=CC1 | C11H12O3S
